US04474899
A mixture of 32 g sodium hydroxide, 400 g water and 152 g methyl 3-methoxytetrafluoropropionate was stirred at room temperature until a single liquid layer was obtained. The product was acidified with 37% aqueous HCl and the lower layer separated. The aqueous layer was extracted four times with 50 ml ethyl ether and the combined ether extracts and lower layer distilled to give 103.3 g (73.4%) 3-methoxytetrafluoropropionic acid, b.p. 85°-86° at 20 mm.

reactant | sodium hydroxide | 32 g | [OH-].[Na+]
reactant | methyl 3-methoxytetrafluoropropionate | 152 g | COC(C(C(=O)OC)(F)F)(F)F | C5H6F4O3
reactant | HCl | Cl | ClH
solvent | water | 400 g | O | H2O
product | 3-methoxytetrafluoropropionic acid | 103.3 g, 73.4% | COC(C(C(=O)O)(F)F)(F)F | C4H4F4O3
